US06395734B1
3-{5-[6-(4-Methoxy-phenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid
3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole (98 mg), 120 mg 6-(4-methoxyphenyl)-2-oxindole and 3 drops piperidine in 2 mL of ethanol were heated at 90° C. overnight. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give 118 mg (57%) of the title compound as a brown solid.

reactant | 3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole | 98 mg | C(=O)(O)CCC1=C(NC(=C1C)C=O)C | C10H13NO3
reactant | 6-(4-methoxyphenyl)-2-oxindole | 120 mg | COC1=CC=C(C=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{5-[6-(4-Methoxy-phenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | 118 mg, 57% | COC1=CC=C(C=C1)C1=CC=C2C(C(NC2=C1)=O)=CC1=C(C(=C(N1)C)CCC(=O)O)C | C25H24N2O4
